US04705786
A stirred solution of 500 mg of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole, 390 mg of 3-fluorobenzaldehyde and 362 mg of methyl 3-aminocrotonate in 20 ml of isopropyl alcohol was heated under reflux for 5 hours. The reaction mixture was concentrated in vacuo and the residue was chromatographed on silica gel using chloroform as eluent to give 780 mg of methyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-fluorophenyl)pyridine-5-carboxylate. Recrystallization from ethyl acetate-isopropyl ether afforded pale yellow crystals, m,p, 186° C.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 500 mg | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | 3-fluorobenzaldehyde | 390 mg | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | methyl 3-aminocrotonate | 362 mg | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | methyl 1,4-dihydro-2,6-dimethyl-3-(3-chloromethyl-1,2,4-oxadiazol-5-yl)-4-(3-fluorophenyl)pyridine-5-carboxylate | 780 mg | CC=1NC(=C(C(C1C1=NC(=NO1)CCl)C1=CC(=CC=C1)F)C(=O)OC)C | C18H17ClFN3O3
